US05811456
4-(benzyloxy)benzaldehyde (2-cyanoethyl)hydrazone is prepared by condensation of 4-(benzyloxy)benzaldehyde with (2-cyanoethyl)hydrazine according to the following procedure:

reactant | 4-(benzyloxy)benzaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | (2-cyanoethyl)hydrazine | C(#N)CCNN | C3H7N3
product | 4-(benzyloxy)benzaldehyde (2-cyanoethyl)hydrazone | yield is 86% | C(#N)CCNN=CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C17H17N3O
